US07786307B2
b) Methyl 2-methyl-2-piperidin-4-ylpropionate hydrochloride
0.115 g of methyl 2-methyl-2-pyridin-4-ylpropionate (CAS 79757-27-0) are dissolved in 5 ml of methanol in an autoclave. The solution is admixed with 0.35 ml of 1.2M HCl in methanol and 0.012 g of platinum (IV) oxide, and the reaction mixture is hydrogenated at 4 bar and 23° over 46 hours. The catalyst is filtered off through Hyflo and the filtrate is concentrated by evaporation. The title compound is obtained as a light brown solid. Rf 0.05 (200:20:1 dichloromethane-methanol-25% conc. ammonia).

reactant | methyl 2-methyl-2-pyridin-4-ylpropionate | 0.115 g | CC(C(=O)OC)(C)C1=CC=NC=C1 | C10H13NO2
reactant | HCl | 1.2M, 0.35 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | platinum (IV) oxide | 0.012 g | [Pt](=O)=O
product | Methyl 2-methyl-2-piperidin-4-ylpropionate hydrochloride | Cl.CC(C(=O)OC)(C)C1CCNCC1 | InChI=1S/C10H19NO2.ClH/c1-10(2,9(12)13-3)8-4-6-11-7-5-8;/h8,11H,4-7H2,1-3H3;1H
